US06458802B1
6-Methoxy-2,3-dihydro[1,4]dioxino[2,3-f]quinolin-2-ylmethyl 4-Methylbenzenesulfonate
To 1.50 g (3.73 mmole) of [(2S)-7-amino-6-methoxy-2,3-dihydro-1,4-benzodioxin-2y]methyl 4-methylbenzenesulfonate hydrochloride was added 100 mL of concentrated hydrochloric acid. Then 0.85 g (3.74 mmole) of 2,3-dichloro-1,4-naphthoquinone was added with sufficient ethanol to wash down the solid. The heterogeneous mixture was heated to reflux and a solution of 0.31 g (5.53 mmole) of acrolein in 10 mL of ethanol was added dropwise. Reflux was continued for an additional 1 hour. The mixture was then allowed to come to room temperature and added to ice water. The solution was made basic with 1 N NaOH and extracted with methylene chloride. The extract was dried over magnesium sulfate, filtered and concentrated to a crude brown oil in vacuum. This was column chromatographed on silica gel with a gradient elution commencing with methylene chloride and ending with 3% methanol in methylene chloride and the product-containing fractions concentrated in vacuum to give 0.75 g of the (R)-enantiomer of the title compound as a yellow oil. 1H-NMR (CDCl3): doublet 8.8 δ (1 H); doublet 8.2 δ (1 H); doublet 7.8 δ (2 H); multiplet 7.4 δ (1 H); multiplet 7.2-7.25 δ (3 H); multiplet 4.45 δ (1 H); multiplet 4.1-4.4 δ (4 H); singlet 3.0 δ (3 H); singlet 2.4 δ (1 H).

reactant | [(2S)-7-amino-6-methoxy-2,3-dihydro-1,4-benzodioxin-2y]methyl 4-methylbenzenesulfonate hydrochloride | 3.73 mmole, 1.50 g | Cl.CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1COC2=C(O1)C=C(C(=C2)OC)N
reactant | hydrochloric acid | 100 mL | Cl | ClH
reactant | 2,3-dichloro-1,4-naphthoquinone | 3.74 mmole, 0.85 g | ClC=1C(C2=CC=CC=C2C(C1Cl)=O)=O | C10H4Cl2O2
reactant | acrolein | 5.53 mmole, 0.31 g | C(=O)C=C | C3H4O
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 6-Methoxy-2,3-dihydro[1,4]dioxino[2,3-f]quinolin-2-ylmethyl 4-Methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCC1COC=2C(=C3C=CC=NC3=C(C2)OC)O1 | C20H19NO6S
